US06825200B1
tert-Butyl 4-(3,3,3-trifluoropropyl)-1-piperazine-carboxylate
To a solution of 1-(tert-butoxycarbonyl)piperazine (5.00 g) and N,N-diisopropylethylamine (4.68 ml) in N,N-dimethylformamide (13 ml) was added 1-bromo-3,3,3-trifluoropropane (5.00 ml) at 60° C. The mixture was stirred at 60° C. for 4 hours. The reaction mixture was poured into saturated aqueous sodium hydrogencarbonate solution and extracted with hexane. The organic layer was washed successively with saturated aqueous ammonium chloride solution, aqueous sodium hydrogencarbonate solution and brine, dried over anhydrous magnesium sulfate and concentrated to give the title compound (5.38 g) as a pale yellow solid.

reactant | 1-(tert-butoxycarbonyl)piperazine | 5.00 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | N,N-diisopropylethylamine | 4.68 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-bromo-3,3,3-trifluoropropane | 5.00 ml | BrCCC(F)(F)F | C3H4BrF3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 13 ml | CN(C=O)C | C3H7NO
product | tert-Butyl 4-(3,3,3-trifluoropropyl)-1-piperazine-carboxylate | 5.38 g | FC(CCN1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C12H21F3N2O2
